US07169761B2
10% aqueous solution of hydrochloric acid (0.5 ml) was added to a solution of (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2,4-dimethoxyphenyl]-2,3,4,6-tetrakis-O-(methoxymethyl)-D-glucitol (0.09 g) in methanol (2.0 ml) and the mixture was refluxed with heating for 30 minutes. The reaction mixture was poured into ice-cooled water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2,4-dimethoxyphenyl]-D-glucitol (0.02 g).

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2,4-dimethoxyphenyl]-2,3,4,6-tetrakis-O-(methoxymethyl)-D-glucitol | 0.09 g | C1=C(C=C2C=CC=CC=C12)CC=1C(=CC(=C(C1)[C@H]1[C@H](OCOC)[C@@H](OCOC)[C@H](OCOC)[C@H](O1)COCOC)OC)OC | C33H44O11
reactant | water | O | H2O
solvent | methanol | 2.0 ml | CO | CH4O
product | (1S)-1,5-anhydro-1-[5-(azulen-2-ylmethyl)-2,4-dimethoxyphenyl]-D-glucitol | 0.02 g | C1=C(C=C2C=CC=CC=C12)CC=1C(=CC(=C(C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC)OC | C25H28O7
